US05378712
By reacting 2.15 g of t-butyl 4-piperidinyloxyacetate with 3.0 g of Z-L-phenylalanine, as described in Example 2b), there are obtained 4.8 g of t-butyl [[1-(N-benzyloxycarbonyl-3-phenyl-L-alanyl)-4-piperidinyl]oxy]acetate MS (FAB): 497 (M+H)+.

reactant | t-butyl 4-piperidinyloxyacetate | 2.15 g | N1CCC(CC1)OCC(=O)OC(C)(C)C | C11H21NO3
reactant | Z-L-phenylalanine | 3.0 g | C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OCC2=CC=CC=C2 | C17H17NO4
product | t-butyl [[1-(N-benzyloxycarbonyl-3-phenyl-L-alanyl)-4-piperidinyl]oxy]acetate | 4.8 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1CCC(CC1)OCC(=O)OC(C)(C)C | C28H36N2O6
